US06288096B1
6.0 g (30.7 mmole) methyl N-[4-(2-hydroxyethyl)phenyl]carbamate was dissolved in acetonitrile. 6.17 g (61 mmole) triethylamine and 7.0 g (61 mmole) methanesulfonyl chloride were added. The mixture was stirred until completion, then the solvent was evaporated in vacuo, water was added to the residue and the product was extracted with dichloromethane to give 7.5 g (yield 89.4%) of 4-[(methoxycarbonyl)amino]phenethyl methanesulfonate.

reactant | methyl N-[4-(2-hydroxyethyl)phenyl]carbamate | 30.7 mmole, 6.0 g | OCCC1=CC=C(C=C1)NC(OC)=O | C10H13NO3
reactant | triethylamine | 61 mmole, 6.17 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 61 mmole, 7.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[(methoxycarbonyl)amino]phenethyl methanesulfonate | 7.5 g, yield 89.4% | CS(=O)(=O)OCCC1=CC=C(C=C1)NC(=O)OC | C11H15NO5S
